US06852731B2
N-(4-chlorobenzyl)-2-{[(2-hydroxy-2-{3-[2-(2-methoxyethoxy)ethoxy]phenyl}ethyl)(methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (85 mg, 0.21 mmol), 1-{3-[2-(2-methoxyethoxy)ethoxy]phenyl}-2-(methylamino)ethanol (Preparation 44) (85 mg, 0.32 mmol) and diisopropylethylamine (56 μL, 0.32 mmol) in dry DMF (4.4 mL) was heated to 60° C., becoming a solution. The reaction was stirred for 5 hours at that temperature. After cooling to room temperature, the solution was diluted with ice (6 g). The resulting milky suspension was stirred vigorously for 30 minutes, and then left standing overnight at room temp. The mixture was filtered, and the collected solid was washed with water and dried in vacuo, leaving a white solid. Recrystallization from acetonitrile/water (10 mL, 1:1, v/v, dissolved with warming acetonitrile, diluted with water and then cooled to 0° C. overnight) gave the title compound (107 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.21 mmol, 85 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 1-{3-[2-(2-methoxyethoxy)ethoxy]phenyl}-2-(methylamino)ethanol | 0.32 mmol, 85 mg | COCCOCCOC=1C=C(C=CC1)C(CNC)O | C14H23NO4
reactant | diisopropylethylamine | 0.32 mmol, 56 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4.4 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-2-{[(2-hydroxy-2-{3-[2-(2-methoxyethoxy)ethoxy]phenyl}ethyl)(methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 107 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(C3=CC(=CC=C3)OCCOCCOC)O)C)=O)C=C1 | C32H38ClN3O6S
